US07476741B2
2-amino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-8-oxo-4H-oxazolo[4,5-h]chromene (335 mg, 0.75 mmol) and cesium carbonate (270 mg, 0.83 mmol) were diluted in dry acetone (10 mL). Methyl iodide (2M solution in tert-butyl methyl ether, 415 μL, 0.83 mmol) was added and the reaction was stirred at room temperature overnight. Solvent was removed in vacuo and the residue was partitioned between water (20 mL) and EtOAc (60 mL). The aqueous layer was extracted with EtOAc (2×50 mL). The organic layers were combined, dried over Na2SO4, filtered and concentrated to a yellow solid. The product was isolated by flash chromatography using a 25S SiO2 system by Biotage, Inc., Charlottesville, Va., using 0 to 1% methanol in dichloromethane to yield 292 mg (85%) 2-amino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-7-methyl-8-oxo-4H-oxazolo[4,5-h]chromene as a light yellow solid. 1H NMR (Acetone-d6) 7.04-6.93 (m, 4H), 6.49 (brs, 2H), 4.83 (s, 1H), 3.86 (s, 3H), 3.76 (s, 3H), 3.39 (s, 3H).

reactant | 2-amino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-8-oxo-4H-oxazolo[4,5-h]chromene | 0.75 mmol, 335 mg | NC1OC=2C(C(C=C3C=CC(OC23)=O)C2=CC(=C(C(=C2)OC)OC)Br)N1C#N | C19H16BrN3O5
reactant | cesium carbonate | 0.83 mmol, 270 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Methyl iodide | 0.83 mmol, 2M, 415 μL | CI | CH3I
reactant | methanol | CO | CH4O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-amino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-7-methyl-8-oxo-4H-oxazolo[4,5-h]chromene | 292 mg, 85% | NC1OC=2C(C(C=C3C=C(C(OC23)=O)C)C2=CC(=C(C(=C2)OC)OC)Br)N1C#N | C20H18BrN3O5
